US04076812
A solution of 8.33 g of crude 10,11-dihydro-10,10,11-trichloro-5H-dibenz[b,f]azepine-5-carboxamide in 35 ml of dimethyl formamide is treated at 0°-10° C with 9.1 ml (0.61 mole) of 1,5-diazabicyclo[5.4.0]undec-5-ene and stirred for 1 hour at room temperature. The brown solution is then poured into a mixture of water and ice and the resultant suspension is extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The crude product is chromatographed over silica gel (particle size: 0.063-0.2 mm) with ethyl acetate as eluant. The homogeneous fractions are combined, concentrated by evaporation and recrystallised from ethyl acetate to yield 10,11-dichloro-5H-dibenz[b,f]azepine-5-carboxamide which melts at 265°-270° C.

reactant | 10,11-dihydro-10,10,11-trichloro-5H-dibenz[b,f]azepine-5-carboxamide | 8.33 g | ClC1(C(C2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2)Cl)Cl | C15H11Cl3N2O
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 0.61 mole, 9.1 ml | N12CCCN=CC2CCCC1 | C9H16N2
reactant | water | O | H2O
solvent | dimethyl formamide | 35 ml | CN(C=O)C | C3H7NO
product | 10,11-dichloro-5H-dibenz[b,f]azepine-5-carboxamide | ClC1=C(C2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2)Cl | C15H10Cl2N2O
